US06310049B1
1-(4-Chlorophenyl)-2-propyl-3-(2-thienyl)-1,3-propanedione (1.4 g, 4.6 mM) was dissolved in ethanol (50 ml), and hydrazine hydrate (343 mg, 6.9 mM) was added thereto. This mixture was heated under reflux for 3 hours. After the mixture was allowed to cool, the solvent was distilled off under reduced pressure. The resulting precipitate was filtered while being washed with a solvent mixture composed of hexane and ether to obtain 1.3 g (4.3 mM) of 3-(4-chlorophenyl)-4-propyl-5-(2-thienyl)-1H-pyrazole, m.p. 129-132° C., in a 94% yield.

reactant | 1-(4-Chlorophenyl)-2-propyl-3-(2-thienyl)-1,3-propanedione | 4.6 mM, 1.4 g | ClC1=CC=C(C=C1)C(C(C(=O)C=1SC=CC1)CCC)=O | C16H15ClO2S
reactant | hydrazine hydrate | 6.9 mM, 343 mg | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(4-chlorophenyl)-4-propyl-5-(2-thienyl)-1H-pyrazole | 4.3 mM, 1.3 g, 94% yield | ClC1=CC=C(C=C1)C1=NNC(=C1CCC)C=1SC=CC1 | C16H15ClN2S
